US08383652B2
40 mg (1.1 mmol) of sodium hydroxide are added to a solution of 552 mg (1.1 mmol) of ethyl (E)-3-[2-butoxy-3′-(1-methyl-3-heptylureido)biphenyl-4-yl]-2-methylacrylate in 1 mL of ethanol and 10 mL of tetrahydrofuran. The reaction mixture is heated at 50° C. for 24 hours. The reaction medium is evaporated to dryness, taken up in water and acidified with aqueous 2 N hydrochloric acid solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over magnesium sulfate. After filtration, the solvent is evaporated off and the oil obtained is purified by chromatography on a column of silica eluted with a 60/40 heptane/ethyl acetate mixture and then precipitated from heptane. 387 mg (85%) of (E)-3-[2-butoxy-3′-(1-methyl-3-heptylureido)biphenyl-4-yl]-2-methylacrylic acid are obtained in the form of a white powder with a melting point of 70-72° C.

reactant | sodium hydroxide | 1.1 mmol, 40 mg | [OH-].[Na+]
reactant | ethyl (E)-3-[2-butoxy-3′-(1-methyl-3-heptylureido)biphenyl-4-yl]-2-methylacrylate | 1.1 mmol, 552 mg | C(CCC)OC1=C(C=CC(=C1)/C=C(/C(=O)OCC)\C)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C31H44N2O4
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (E)-3-[2-butoxy-3′-(1-methyl-3-heptylureido)biphenyl-4-yl]-2-methylacrylic acid | 387 mg, 85% | C(CCC)OC1=C(C=CC(=C1)/C=C(/C(=O)O)\C)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C29H40N2O4
